US07608631B2
Preparation of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-5-methyl-[1,2,4]oxadiazole
100 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxybenzamidine are placed in 2 ml of toluene. 20 mg of acetyl chloride and 2 ml of pyridine are added, and heating is carried out for 4 hours at 120° C. The reaction mixture is concentrated, and the residue is taken up in ethyl acetate and washed with dilute hydrochloric acid and water. Concentration of the organic phase and purification over silica gel yield the title compound (compound 1.10).

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxybenzamidine | 100 mg | ClC1=C(OCCCOC2=CC=C(C(=N)NO)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H18Cl4N2O4
reactant | acetyl chloride | 20 mg | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-5-methyl-[1,2,4]oxadiazole | ClC1=C(OCCCOC2=CC=C(C=C2)C2=NOC(=N2)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H18Cl4N2O4
